US04684739
In 15 ml of methanol is dissolved 1.0 g of 5-[2-{(1,4-benzodioxan-2-ylmethyl)amino}acetyl]-1,3-benzodioxole hydrochloride prepared according to the procedure described in Example 3 and the solution is neutralized with 2N sodium hydroxide. Thereafter, 100 mg of sodium borohydride is added and the mixture is stirred for 6 hours at room temperature. After completion of the reaction, the solvent is distilled off and the residue is dissolved in ethyl acetate and washed twice with saturated sodium chloride solution. After drying over anhydrous sodium sulfate, the solvent is distilled off and the residue is crystallized from water-alcohol to give 800 mg (89%) of 5-[2-{(1,4-benzodioxan-2-ylmethyl)amino}-1-hydroxyethyl]-1,3-benzodioxole.

reactant | 5-[2-{(1,4-benzodioxan-2-ylmethyl)amino}acetyl]-1,3-benzodioxole hydrochloride | 1.0 g | Cl.O1C(COC2=C1C=CC=C2)CNCC(=O)C2=CC1=C(OCO1)C=C2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | sodium borohydride | 100 mg | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 5-[2-{(1,4-benzodioxan-2-ylmethyl)amino}-1-hydroxyethyl]-1,3-benzodioxole | 800 mg, 89% | O1C(COC2=C1C=CC=C2)CNCC(O)C2=CC1=C(OCO1)C=C2 | C18H19NO5
